US04957925
(b) 2-Isopropyl-3-(4-hydroxybenzenesulphonyl)pyrazolo[1,5-a]pyridine
A mixture of 0.012 mol of 2-isopropyl-3-(4-methoxybenzenesulphonyl) pyrazolo[1,5-a]pyridine and 0.054 mol of pyridine hydrochloride was heated at 220° C. for & hour. Water was then added and the mixture was distilled in the presence of ethyl acetate. The medium was dried on sodium sulphate, filtered and concentrated. The solid so obtained was then recrystallized from isopropyl ether to provide a white crystalline product.

reactant | 2-isopropyl-3-(4-methoxybenzenesulphonyl) pyrazolo[1,5-a]pyridine | 0.012 mol | C(C)(C)C1=NN2C(C=CC=C2)=C1S(=O)(=O)C1=CC=C(C=C1)OC | C17H18N2O3S
reactant | pyridine hydrochloride | 0.054 mol | Cl.N1=CC=CC=C1
solvent | Water | O | H2O
product | 2-Isopropyl-3-(4-hydroxybenzenesulphonyl)pyrazolo[1,5-a]pyridine | C(C)(C)C1=NN2C(C=CC=C2)=C1S(=O)(=O)C1=CC=C(C=C1)O | C16H16N2O3S
